US08304577B2
Part E. (S)-N-{(1R,2R)-2-Hydroxy-1-[4-((S)-2-methyl-butoxy)-phenyl]-propyl}-2-phenyl-propionamide
To a solution of (S)-(+)-2-phenylpropionic acid (0.067 g, 0.449 mmol) in dichloromethane (5 mL) in an ice-bath was added oxalyl chloride (0.39 mL, 4.49 mmol), then DMF (0.02 mL) under nitrogen. The reaction mixture was stirred for 30 minutes at 0° C. The excessive solvent was removed on ratovapor and dried under high vacuum for 2 hrs to give the corresponding acid chloride. A separate 50 mL round-bottom flask was charged with (1R,2R)-1-amino-1-[4-((S)-2-methyl-butoxy)phenyl]-propan-2-ol.HCl salt (0.37 mmol), dichloromethane (6 mL) and triethylamine (0.3 mL, 1.85 mmol) in an ice cold bath under nitrogen. The acid chloride mentioned above, in dichloromethane (2 mL) was added into the reaction mixture dropwise. The final reaction mixture was stirred for 1.5 hrs at room temperature. The finished reaction was quenched with water. The organic phase was washed with brine (3×10 mL), dried over MgSO4, filtrated, concentrated in vacuum and purified via column chromatography on silica gel with a gradient of 0%→100% of ethyl acetate in hexane to give a white solid (0.013 g, 10% yield). 1H NMR (400 MHz, CDCl3) δ 7.33 (m, 5H), 6.93 (d, J=8.8 Hz, 2H), 6.80 (m, 2H), 6.05 (d, J=8.3 Hz, 1H), 4.82 (dd, J=8.2, 3.7 Hz, 1H), 4.00 (br. s., 1H), 3.74 (m, 3H), 1.96 (d, J=3.0 Hz, 1H), 1.85 (d, J=6.6 Hz, 1H), 1.54 (m, 3H), 1.27 (m, 2H), 1.16 (d, J=6.3 Hz, 3H), 1.02 (m, 3H), 0.96 (t, J=7.5 Hz, 3H); LCMS (ESI) m/e 370.4 [(M+H), calcd. for C23H32NO3 370.5].

reactant | (1R,2R)-1-amino-1-[4-((S)-2-methyl-butoxy)phenyl]-propan-2-ol | N[C@@H]([C@@H](C)O)C1=CC=C(C=C1)OC[C@H](CC)C | C14H23NO2
reactant | HCl | 0.37 mmol | Cl | ClH
reactant | triethylamine | 1.85 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (S)-N-{(1R,2R)-2-Hydroxy-1-[4-((S)-2-methyl-butoxy)-phenyl]-propyl}-2-phenyl-propionamide | 0.013 g, 10% yield | O[C@@H]([C@@H](C1=CC=C(C=C1)OC[C@H](CC)C)NC([C@@H](C)C1=CC=CC=C1)=O)C | C23H31NO3
